US03959309
3-(Dimethylamino)-6,8-dimethyl-1,2,3,4-tetrahydrocarbazole
Following the procedure given in Example 3 and using 9 g. of 4-dimethylaminocyclohexanone and 11 g. of 2,4-dimethylphenylhydrazine hydrochloride there was obtained, after treatment of the free base in ether with ethereal hydrogen chloride, 10.9 g. of 3-(dimethylamino)-6,8-dimethyl-1,2,3,4-tetrahydrocarbazole hydrochloride; m.p. 312°-315°C.

reactant | hydrogen chloride | Cl | ClH
reactant | 3-(dimethylamino)-6,8-dimethyl-1,2,3,4-tetrahydrocarbazole hydrochloride | Cl.CN(C1CCC=2NC3=C(C=C(C=C3C2C1)C)C)C
solvent | ether | CCOCC | C4H10O
product | 3-(Dimethylamino)-6,8-dimethyl-1,2,3,4-tetrahydrocarbazole | CN(C1CCC=2NC3=C(C=C(C=C3C2C1)C)C)C | C16H22N2
